US09376454B2
Step 5. Synthesis of tert-butyl 3-bromo-5,7-dihydropyrrolo[3,4-b]pyridine-6-carboxylate
To a solution of 3-bromo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine (755 mg, 3.79 mmol) in dichloromethane (15 mL) was added diisopropylethylamine (791 μL, 4.54 mmol) followed by di-tert-butyl dicarbonate (989 mg, 4.54 mmol). The resulting solution was stirred for 1 hr then diluted with ether, washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by silica chromatography (25 g silica, eluted with 5-40% ethyl acetate in hexanes) to give the title compound as a solid.

reactant | 3-bromo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | 3.79 mmol, 755 mg | BrC=1C=C2C(=NC1)CNC2 | C7H7BrN2
reactant | diisopropylethylamine | 4.54 mmol, 791 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 4.54 mmol, 989 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | tert-butyl 3-bromo-5,7-dihydropyrrolo[3,4-b]pyridine-6-carboxylate | BrC=1C=C2C(=NC1)CN(C2)C(=O)OC(C)(C)C | C12H15BrN2O2
